US05066654
To a stirred solution of 2-chloro-3-nitropyridine (26.56 g, 0.168 mol) in absolute ethanol (250 mL) was added 2-(aminomethyl)pyridine (20.0 g, 0.185 mol) and triethylamine (16.99 g, 0.168 mol). The solution was heated at reflux for 2 hr and evaporated under reduced pressure. The residue was triturated in ethyl acetate several times and filtered. The filtrate was washed 3 times with a saturated sodium chloride solution, dried (sodium sulfate), filtered and evaporated under reduced pressure to give 36.8 g of N-(3-nitro-2-pyridinyl)-2-pyridinemethanamine (95% yield). A 1.0 g portion of the solid was recrystallized from isopropyl ether and dried under high vacuum to give 0.57 g of N-(3-nitro-2-pyridinyl)-2-pyridinemethanamine, mp 112°-115° C.

reactant | 2-chloro-3-nitropyridine | 0.168 mol, 26.56 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-(aminomethyl)pyridine | 0.185 mol, 20.0 g | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 0.168 mol, 16.99 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | N-(3-nitro-2-pyridinyl)-2-pyridinemethanamine | 36.8 g, 95% yield | [N+](=O)([O-])C=1C(=NC=CC1)NCC1=NC=CC=C1 | C11H10N4O2
